US07361659B2
To a stirred solution of 2-amino-2-methyl-1,3-propanediol (0.44 g, 4.2 mmol) in THF (10 ml) was added at room temperature 5-chloro-4-nitrothiophene-2-sulfonyl chloride (1.0 g, 3.82 mmol) and triethylamine (0.58 ml, 4.2 mmol). The light yellow suspension was stirred at room temperature for 17 h, poured into water (100 ml) and extracted with dichloromethane (3×75 ml). The combined organic layers were washed with water (100 ml) and brine (70 ml), dried (MgSO4) and evaporated. The crude product was further purified by flash chromatography on silica gel (heptane/ethyl acetate) and subsequent crystallization from ethyl acetate/hexane to yield 5-chloro-4-nitro-thiophene-2-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide (0.25 g, 20%) as a light brown solid. Mp 133° C.

reactant | 2-amino-2-methyl-1,3-propanediol | 4.2 mmol, 0.44 g | NC(CO)(CO)C | C4H11NO2
reactant | 5-chloro-4-nitrothiophene-2-sulfonyl chloride | 3.82 mmol, 1.0 g | ClC1=C(C=C(S1)S(=O)(=O)Cl)[N+](=O)[O-] | C4HCl2NO4S2
reactant | triethylamine | 4.2 mmol, 0.58 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-chloro-4-nitro-thiophene-2-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | 0.25 g, 20% | OCC(C)(CO)NS(=O)(=O)C=1SC(=C(C1)[N+](=O)[O-])Cl | C8H11ClN2O6S2
